US09108915B2
Benzyl 3-(cyclopropylcarbamoyl)-4-oxopyrrolidine-1-carboxylate
To a solution of ethyl N-benzyloxycarbonyl-N-{(2-cyclopropylaminocarbonyl)ethyl}aminoacetate (200 mg, 0.574 mmol) in toluene (2.0 mL) was added potassium tert-butoxide (136 mg, 1.21 mmol) as a base at an outer temperature set of 40° C., followed by stirring for 2 hours. Then, the HPLC measurement of this reaction mixture was carried out. The results are shown in Table 5.

reactant | ethyl N-benzyloxycarbonyl-N-{(2-cyclopropylaminocarbonyl)ethyl}aminoacetate | 0.574 mmol, 200 mg | C(C1=CC=CC=C1)OC(=O)N(CCC(=O)NC1CC1)CC(=O)OCC | C18H24N2O5
reactant | potassium tert-butoxide | 1.21 mmol, 136 mg | CC(C)([O-])C.[K+]
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | Benzyl 3-(cyclopropylcarbamoyl)-4-oxopyrrolidine-1-carboxylate | C1(CC1)NC(=O)C1CN(CC1=O)C(=O)OCC1=CC=CC=C1 | C16H18N2O4
